US05389640
α,α-Dimethyl-2-hydroxymethyl-1H-imidazo[4,5-c]quinoline-1-ethanol
Using the general method of Example 24, 3-amino-4-(2-hydroxy-2-methylpropylamino)quinoline (45 g, 0.19 mol) was reacted with glycolic acid to provide 35.7 g of the desired product as a tan solid. The structure was confirmed by nuclear magnetic resonance spectroscopy.

reactant | 3-amino-4-(2-hydroxy-2-methylpropylamino)quinoline | 0.19 mol, 45 g | NC=1C=NC2=CC=CC=C2C1NCC(C)(C)O | C13H17N3O
reactant | glycolic acid | C(CO)(=O)O | C2H4O3
product | α,α-Dimethyl-2-hydroxymethyl-1H-imidazo[4,5-c]quinoline-1-ethanol | 35.7 g | CC(CN1C(=NC=2C=NC=3C=CC=CC3C21)CO)(O)C | C15H17N3O2
